US04956358
To a solution of 0.39 ml of oxalyl chloride in 12 ml of dichloromethane was added under nitrogen atmosphere at -70° C. while stirring a solution of 0.60 ml of dimethyl sulfoxide in 4 ml of dichloromethane. To the mixture was added a solution of 0.95 g of 1-t-butyl 5-methyl 2-hydoxyglutarate obtained as above in 3.5 ml of dichloromethane. The whole mixture was stirred for 15 minutes at -70° C., to which was added 3.0 ml of triethylamine. The temperature of the reaction mixture was raised to -40° C., and the reaction mixture was poured into ice-water, followed by extraction with dichloromethane. The extract was wahsed with water, dilute acetic acid and water, in sequence, which was then dried (Na2SO4.), followed by distilling off the solvent. The residue was subjected to a silica gel column chromatography, eluting with hexane-ethyl acetate (5:1), followed by combining fractions containing the end product. Thus combined eluate was concentrated under reduced pressure to give 0.60 g of 1-t-butyl 5-methyl 2-oxoglutarate as a colorless oily substance.

reactant | oxalyl chloride | 0.39 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.60 ml | CS(=O)C | C2H6OS
reactant | 1-t-butyl 5-methyl 2-hydoxyglutarate | 0.95 g | OC(C(=O)OC(C)(C)C)CCC(=O)OC | C10H18O5
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 1-t-butyl 5-methyl 2-oxoglutarate | 0.60 g | O=C(C(=O)OC(C)(C)C)CCC(=O)OC | C10H16O5
